US07863283B2
(RS)-N-(Ethoxycarbonyl)-S-ethyl-S-[3-({[6-methoxy-4-(thiazol-2-ylamino)-quinazolin-7-yl]oxy}methyl)phenyl]sulphoximide
According to GWP 5, the reaction of N′-(2-cyano-5-{3-[(RS)-N-(ethoxycarbonyl)-S-ethylsulphonimidoyl]benzyloxy}-4-methoxyphenyl)-N,N-dimethylformimidamide (50 mg, 0.11 mmol) with 2-aminothiazole (12.8 mg, 0.13 mmol) and chromatographic purification (silica gel, dichloromethane/methanol: 0→30% methanol) gives the desired product in 72% yield (40 mg).

reactant | N′-(2-cyano-5-{3-[(RS)-N-(ethoxycarbonyl)-S-ethylsulphonimidoyl]benzyloxy}-4-methoxyphenyl)-N,N-dimethylformimidamide | 0.11 mmol, 50 mg | C(#N)C1=C(C=C(C(=C1)OC)OCC1=CC(=CC=C1)S(=O)(=NC(=O)OCC)CC)N=CN(C)C | C23H28N4O5S
reactant | 2-aminothiazole | 0.13 mmol, 12.8 mg | NC=1SC=CN1 | C3H4N2S
reactant | dichloromethane methanol | ClCCl.CO
solvent | methanol | CO | CH4O
product | (RS)-N-(Ethoxycarbonyl)-S-ethyl-S-[3-({[6-methoxy-4-(thiazol-2-ylamino)-quinazolin-7-yl]oxy}methyl)phenyl]sulphoximide | 72% yield | C(C)OC(=O)N=S(=O)(C1=CC(=CC=C1)COC1=C(C=C2C(=NC=NC2=C1)NC=1SC=CN1)OC)CC | C24H25N5O5S2
